US03996374
A suspension of 9.0 g. of 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid methylamide in 120 ml. of dimethylformamide is treated under argon at 0° C. with 5.0 g. of potassium tert. butylate and then stirred in an ice-bath for 30 minutes. At 0°-5° C. there are added 8 ml. of methyl iodide in one batch, the mixture is subsequently stirred for 2 hours at room temperature and poured onto 2 liters of ice-water. After the addition of 100 g. of sodium chloride, the separated oil is extracted with methylene chloride. The organic phase is washed with a solution of sodium chloride, dried over sodium sulfate and concentrated to dryness under reduced pressure. The oily residue is dissolved in 200 ml. of hot hexane. The solution obtained is cooled in an ice-bath, colorless crystals separating, and there is obtained 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid dimethylamide having a melting point of 86°-88° C.

reactant | 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid methylamide | CNC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C | C17H15ClN2O
reactant | methyl iodide | CI | CH3I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid dimethylamide | CN(C(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C)C | C18H17ClN2O
